US07465726B2
3-Imidazol-1-yl-1-{4-[4-(3-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-propan-1-one
β-Bromopropionic acid (29.1 mg, 0.190 mmol), 1H-imidazole (19.4 mg, 0.286 mmol), potassium carbonate (160 mg, 1.16 mmol) and DMF (3 mL) was combined together and stirred at rt for 20 h. After that time, (3-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrogen chloride tri-salt (122 mg, 0.190 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (76.7 mg, 0.400 mmol), and 1-hydroxybenzotriazole (27.0 mg, 0.200 mmol) was added into the above reaction mixture and was stirred at rt under an atmosphere of N2 for 24 h. After that time, the mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in DMSO for submission to MS-directed purification to obtain the title compound as beige oil. 1H NMR (DMSO-d6, 400 MHz): δ=2.54-2.56 (m, 2H), 2.59 (s, 3H), 2.97-3.07 (m, 2H), 3.73 (t, 1H, J=5.2 Hz), 3.80 (t, 1H, J=5.6 Hz), 4.25 (brs, 2H), 4.30-4.33 (m, 2H), 6.48 (d, 1H, J=4.0 Hz), 6.80 (d, 1H, J=18.8 Hz), 6.94 (d, 1H, J=0.8 Hz), 7.28-7.30 (m, 1H), 7.52 (d, 1H, J=8.8 Hz), 7.73 (t, 1H, J=0.8 Hz), 7.76-7.80 (m, 1H), 8.23 (dd, 1H, J=1.2 & 6.8 Hz), 8.32 (d, 1H, J=2.0 Hz), 9.40 (s, 1H), 12.01 (brs, 1H), 12.56 (brs, 1H). MS (ES+): m/z 468.11 (10) [MH+]. HPLC: tR=1.62 min (ZQ2000, polar—5 min).

reactant | β-Bromopropionic acid | 0.190 mmol, 29.1 mg | BrCCC(=O)O | C3H5BrO2
reactant | 1H-imidazole | 0.286 mmol, 19.4 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.16 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrogen chloride | Cl.CC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.400 mmol, 76.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.200 mmol, 27.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Imidazol-1-yl-1-{4-[4-(3-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-propan-1-one | N1(C=NC=C1)CCC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)C)N1 | C25H25N9O
